US06790860B2
R2-ether formation: To a slurry of sodium hydride (60% in mineral oil, 2.75 g) in DMSO (100 ml) were added (2S,4R)-[4-tert-butoxy-1-(naphthalene-2-sulfonyl)-pyrrolidin-2-yl]-methanol (11.2 g) in portions within 0.5 h and benzyl bromide (7.2 ml) dropwise within 0.5 h at 20° C. The reaction mixture was stirred at room temperature for 1.5 h, poured onto ice/water and extracted with EtOAc. The organic phases were washed with water and brine, dried over magnesium sulphate and concentrated. The residue was crystallized from acetone/Et2O/hexane to obtain (2S,4R)-2-benzyloxymethyl-4-tert-butoxy-1-(naphthalene-2-sulfonyl)-pyrrolidine (10.05 g) as a colorless solid, mp 101-103° C., MS: 454 (MH+).

reactant | sodium hydride | 2.75 g | [H-].[Na+]
reactant | (2S,4R)-[4-tert-butoxy-1-(naphthalene-2-sulfonyl)-pyrrolidin-2-yl]-methanol | 11.2 g | C(C)(C)(C)O[C@@H]1C[C@H](N(C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)CO | C19H25NO4S
reactant | benzyl bromide | 7.2 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
product | (2S,4R)-2-benzyloxymethyl-4-tert-butoxy-1-(naphthalene-2-sulfonyl)-pyrrolidine | 10.05 g | C(C1=CC=CC=C1)OC[C@H]1N(C[C@@H](C1)OC(C)(C)C)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C26H31NO4S
